US08017769B2
2-Aminothiophenol (137.7 g) was heated to 110° C., and isatoic anhydride (C8H5NO3, 203.9 g) was added portionwise over a 1 h period while taking care to avoid foaming. Thereafter the temperature was raised to 140° C., and heating was continued for about 2 to 4 h until the starting material 2-aminothiophenol was consumed. The melt was poured into an enamel cuvette and after cooling, the cold material was crushed, then boiled in aqueous NaOH solution (12 g of NaOH solved in 3.5 L of water) for 2 to 3 h. The precipitate was filtered off and the filter cake was washed with cold water until the pale blue fluorescence disappeared in the washings. The precipitate was dried at 80° C. to afford 2-(benzo[d]thiazol-2-yl)phenylamine (200 g). The product was used without further purification in the next stage of preparation.

reactant | 2-Aminothiophenol | 137.7 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | isatoic anhydride | 203.9 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
product | 2-(benzo[d]thiazol-2-yl)phenylamine | 200 g | S1C(=NC2=C1C=CC=C2)C2=C(C=CC=C2)N | C13H10N2S
